US07553854B2
Step 3. Synthesis of 2-(cyclohexylmethylamino)-5-fluorobenzo[d]thiazol-6-ol
To the solution of N-(cyclohexylmethyl)-5-fluoro-6-methoxybenzo[d]thiazol-2-amine (114 mg, 0.387 mmol, 1.0 eq) in 10 mL of DCM was added 1M solution of boron tribromide (ca. 1.0 mL, 0.775 mmol, 2.0 eq) at room temperature. The reaction mixture was stirred for 2 hours, thereafter the mixture was diluted with saturated sodium bicarbonate solution (ca. 100 mL) till PH=7 and aqueous layer extracted with ethyl acetate (ca. 150 mL×3). Combined organic layers were dried over sodium sulfate, filtered and condensed under reduced pressure to give crude product which was sufficiently pure and was carried to next step without further purification. LC/MS (m/z) [281.1] (MH+)

reactant | N-(cyclohexylmethyl)-5-fluoro-6-methoxybenzo[d]thiazol-2-amine | 0.387 mmol, 114 mg, 1.0 eq | C1(CCCCC1)CNC=1SC2=C(N1)C=C(C(=C2)OC)F | C15H19FN2OS
reactant | boron tribromide | 0.775 mmol, ca. 1.0 mL, 2.0 eq | B(Br)(Br)Br | BBr3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | ca. 100 mL | C([O-])(O)=O.[Na+]
product | 2-(cyclohexylmethylamino)-5-fluorobenzo[d]thiazol-6-ol | C1(CCCCC1)CNC=1SC2=C(N1)C=C(C(=C2)O)F | C14H17FN2OS
